US06051712
In an analogous manner to that described in Example 22 (l), from tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(7-hydroxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by cleavage of the BOC protecting group with hydrogen chloride in methanol there was obtained 7-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidine-3-yloxymethyl]-naphthalen-2-ol hydrochloride (1:1) as an amorphous, beige foam; MS: 498 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(7-hydroxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC(=CC=C2C=C1)O | C37H43NO6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidine-3-yloxymethyl]-naphthalen-2-ol hydrochloride | Cl.C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC=C2C=CC(=CC2=C1)O | InChI=1S/C32H35NO4.ClH/c34-29-12-9-26-8-7-25(19-28(26)20-29)23-37-32-21-33-16-15-31(32)27-10-13-30(14-11-27)36-18-4-17-35-22-24-5-2-1-3-6-24;/h1-3,5-14,19-20,31-34H,4,15-18,21-23H2;1H
